US08791255B2
The product is prepared according to the procedure described in Example 5, using 500 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate and 278 mg of 2-aminophenol in place of the 2,4-difluoroaniline. 370 mg of N-(2-hydroxyphenyl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide are obtained in the form of a white solid, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 500 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 2-aminophenol | 278 mg | NC1=C(C=CC=C1)O | C6H7NO
product | N-(2-hydroxyphenyl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide | 370 mg | OC1=C(C=CC=C1)NC(CC=1NC(C=C(N1)N1CCOCC1)=O)=O | C16H18N4O4
